US07465731B2
To a stirred solution of tert-butyl [(3R)-1-benzyl-3-pyrrolidinyl](6-chloro-2-pyrazinyl)carbamate (910 mg) in DMF (15 mL) was added ethyl acrylate (1.27 mL), palladium(II) acetate (26 mg), tris(2-methylphenyl)phosphine (107 mg), and N,N-diisopropylethylamine (1.22 mL). The mixture was stirred in the sealed tube at 150° C. for 3 days. The resulting mixture was allowed to cool to ambient temperature, poured into water, and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (96:4 v/v) to give ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinyl)acrylate (755 mg) as a pale yellow foam.

reactant | tert-butyl [(3R)-1-benzyl-3-pyrrolidinyl](6-chloro-2-pyrazinyl)carbamate | 910 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC(=CN=C1)Cl | C20H25ClN4O2
reactant | ethyl acrylate | 1.27 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tris(2-methylphenyl)phosphine | 107 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | N,N-diisopropylethylamine | 1.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinyl)acrylate | 755 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C1=CN=CC(=N1)/C=C/C(=O)OCC)C(=O)OC(C)(C)C | C25H32N4O4
